US04234586
The process according to Example 6 is carried out with the difference that aniline and dimethylformamide solution of 2,6-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxamide is used. The crude 9-(phenyl-hydrazono)-2,6-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxamide melts at 235°-237° C., yield: 49.2%.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2,6-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxamide | CC=1N=C2N(C(C1C(=O)N)=O)C(CCC2)C | C11H15N3O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(phenyl-hydrazono)-2,6-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxamide | yield: 49.2% | C1(=CC=CC=C1)NN=C1CCC(N2C1=NC(=C(C2=O)C(=O)N)C)C | C17H19N5O2
